US05106871
In 3 ml of dimethylformamide was dissolved 456 mg of 2',4'-dihydroxyacetophenone, and the solution was cooled to 0° C. and 1.73 ml of N,N-diisopropylethylamine was added to the solution. Then, 0.61 ml of chloromethyl methyl ether was added to the mixture and reaction was carried out for 18 hours with stirring. After the reaction, the reaction mixture was poured in ice water and extracted with ethyl acetate. The organic layer was washed with water, dried with anhydrous sodium sulfate and filtered. The solvent was removed from the filtrate by distillation to obtain 707.9 mg (yield=98.3%) of 2',4'-bis(methoxymethoxy)acetophenone in the form of a colorless transparent liquid.

reactant | 2',4'-dihydroxyacetophenone | 456 mg | OC1=C(C=CC(=C1)O)C(C)=O | C8H8O3
reactant | N,N-diisopropylethylamine | 1.73 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethyl methyl ether | 0.61 ml | COCCl | C2H5ClO
reactant | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2',4'-bis(methoxymethoxy)acetophenone | 707.9 mg, yield=98.3% | COCOC1=C(C=CC(=C1)OCOC)C(C)=O | C12H16O5
